US08633218B2
3-(5-Methoxy-benzo[b]thiophen-2-yl)-8-aza-bicyclo[3.2.1]oct-2-ene hydrochloric acid salt (Compound 2.1)
3-(5-Methoxy-benzo[b]thiophen-2-yl)-8-methyl-8-aza-bicyclo[3.2.1]oct-2-ene (2.28 g, 7.99 mmol) was solved in toluene (25 ml). 1-Chloroethylchloroformate (2.28 g, 15.97 mmol) was added at room-temperature. The mixture was stirred at room-temperature for 1 hour and was then stirred at reflux for 15 hours. Methanol (20 ml) was added followed by reflux for 2 hours. The mixture was cooled on an ice-bath. The product crystallized and was washed with ethanol and diethylether. The product was recrystallised from ethanol as hydrochloric acid salt, yield 0.37 g (15%). The mother liquor was evaporated, converted to the free base by adding aqueous ammonia and extraction with dichloromethane followed by chromatographic purification using dichloromethane, methanol and aqueous ammonia (9:1+1%). Yield 0.30 g (14%).

reactant | 3-(5-Methoxy-benzo[b]thiophen-2-yl)-8-methyl-8-aza-bicyclo[3.2.1]oct-2-ene | 7.99 mmol, 2.28 g | COC1=CC2=C(SC(=C2)C2=CC3CCC(C2)N3C)C=C1 | C17H19NOS
reactant | 1-Chloroethylchloroformate | 15.97 mmol, 2.28 g | ClC(C)OC(=O)Cl | C3H4Cl2O2
reactant | Methanol | 20 ml | CO | CH4O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(5-Methoxy-benzo[b]thiophen-2-yl)-8-aza-bicyclo[3.2.1]oct-2-ene hydrochloric acid salt | Cl.COC1=CC2=C(SC(=C2)C2=CC3CCC(C2)N3)C=C1 | InChI=1S/C16H17NOS.ClH/c1-18-14-4-5-15-11(8-14)9-16(19-15)10-6-12-2-3-13(7-10)17-12;/h4-6,8-9,12-13,17H,2-3,7H2,1H3;1H
